US05344845
Using 0.2 g of N-(trans-4-methylcyclohexyl-4-[2-[1-benzimidazolyl)ethoxy]-3-methoxycinnamamide Example 166), 0.01 g of 10% palladium-carbon, and 35 ml of methanol, a reaction similar to that conducted in Example 147 was carried out. As a result, 0.11 g of N-(trans-4-methylcyclohexyl)-3-{4-[2-(1-imidazolyl)ethoxy}-3-methoxyphenyl}propionamide (a compound of the present invention) was obtained as white crystal, which had the following physiochemical properties:

reactant | trans-4-methylcyclohexyl-4-[2-[1-benzimidazolyl)ethoxy]-3-methoxycinnamamide | C[C@@H]1CC[C@H](CC1)C(C(=O)N)=CC1=CC(=C(C=C1)OCCN1C=NC2=C1C=CC=C2)OC | C26H31N3O3
catalyst | palladium-carbon | 0.01 g | [C].[Pd]
solvent | methanol | 35 ml | CO | CH4O
product | N-(trans-4-methylcyclohexyl)-3-{4-[2-(1-imidazolyl)ethoxy}-3-methoxyphenyl}propionamide | 0.11 g | C[C@@H]1CC[C@H](CC1)NC(CCC1=CC(=C(C=C1)OCCN1C=NC=C1)OC)=O | C22H31N3O3
